US04013708
20 ml of 2 N sodium hydroxide solution are added to a solution of 15 g of 5-[p-(1-cyclooctenyl)-phenoxy]-pentanoic acid ethyl ester in 150 ml of ethanol and the mixture is left to stand at room temperature for 48 hours. It is then evaporated in vacuo to a volume of about 30 ml and the evaporation residue is distributed, at 5° C, between 100 ml of 2 N hydrochloric acid and twice 200 ml of ether. The organic phases are washed until neutral, dried over sodium sulphate and evaporated in vacuo. Crystallisation of the evaporation residue from ether-petroleum ether gives 5-[p-(1-cyclooctenyl)-phenoxy]-pentanoic acid of melting point 94- 96° C.

reactant | sodium hydroxide | 2 N, 20 ml | [OH-].[Na+]
reactant | 5-[p-(1-cyclooctenyl)-phenoxy]-pentanoic acid ethyl ester | 15 g | C(C)OC(CCCCOC1=CC=C(C=C1)C1=CCCCCCC1)=O | C21H30O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-[p-(1-cyclooctenyl)-phenoxy]-pentanoic acid | C1(=CCCCCCC1)C1=CC=C(OCCCCC(=O)O)C=C1 | C19H26O3
